US04693742
Trimethylbromosilane (122 g) was added dropwise to a solution of diethyl 3-(N-ethoxycarbonyl-N-hydroxyamino)-2-(tetrahydro-2H-pyran-2-yloxy)propylphosphonate (79.4 g) in methylene chloride (160 ml) under ice-cooling with stirring over a period of 15 minutes. The mixture was further stirred for an hour at 0°-5° C. and for additional 2.5 hours at ambient temperature, and then evaporated under reduced pressure. The oily residue was dissolved in water (500 ml) stirred at ambient temperature for an hour, and then washed twice with chloroform (200 and 100 ml portions) to remove off bis(trimethylsilyl)ether. The combined chloroform washings were back extracted once with water (50 ml). The combined aqueous layers were evaporated under reduced pressure. The dark brown oily residue was dissolved in water (300 ml) washed twice with chloroform (each 150 ml portion) and ethyl acetate (100 ml) successively, treated with activated charcoal (2.5 g), and evaporated under reduced pressure. The oily residue was dissolved in 1N hydrochloric acid (750 ml) treated with activated charcoal (2.5 g) and then heated to reflux for 13.5 hours. The mixture was evaporated under reduced pressure. The oily residue was dissolved in a mixture of water (50 ml) and methanol (100 ml) adjusted to pH about 4 with propylene oxide, and diluted with ethanol (300 ml). The oily precipitates were collected by decantation and dissolved in water (60 ml). This aqueous solution was diluted with methanol (120 ml) under heating at 60° C. and then allowed to stand overnight at ambient temperature. The precipitates were collected by filtration, washed twice with 80% aqueous methanol (each 20 ml portion) and methanol (20 ml) and then dried on phosphorus pentoxide to give 2-hydroxy-3-(N-hydroxyamino)-propylphosphonic acid (10.60 g). M.P. 153°-155° C.

reactant | Trimethylbromosilane | 122 g | C[Si](Br)(C)C | C3H9BrSi
reactant | diethyl 3-(N-ethoxycarbonyl-N-hydroxyamino)-2-(tetrahydro-2H-pyran-2-yloxy)propylphosphonate | 79.4 g | C(C)OC(=O)N(O)CC(CP(OCC)(OCC)=O)OC1OCCCC1 | C15H30NO8P
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-3-(N-hydroxyamino)-propylphosphonic acid | 10.60 g | OC(CP(O)(O)=O)CNO | C3H10NO5P
